US05130335
F. 4-Tert-butyldimethylsiloxymethylphenol
A mixture of 1.24 g (0.01 mole) of 4-hydroxymethylphenol, 1.8 g (0.012 mole) of tert-butyldimethylsilyl chloride, 1.7 g (0.025 mole) of imidazole and 3 ml of dimethylformamide was stirred under nitrogen at room temperature for 12 h. The reaction mixture was poured into water and extracted with three portions of ether. Ether extracts were combined and washed successively with water and saturated NaCl solution and then dried (Na2SO4). The ether solution was concentrated in-vacuo and the resultant crude product was purified by flash chromatography (silica; 10% ethyl acetate in hexanes) to give the title compound as a colorless oil.

reactant | 4-hydroxymethylphenol | 0.01 mole, 1.24 g | OCC1=CC=C(C=C1)O | C7H8O2
reactant | tert-butyldimethylsilyl chloride | 0.012 mole, 1.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.025 mole, 1.7 g | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Tert-butyldimethylsiloxymethylphenol | O([Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)O | C13H22O2Si
